US07405230B2
N-(3-Hydroxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-3-aminobenzoic Acid
N-(3-Cyclopentyloxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-3-aminobenzoic acid (10.0 g, 23.9 mmol) was dissolved in DCM and 22.3 g (167 mmol) of AlCl3 was added. The dark brown solution stirred at room temperature overnight under N2. The reaction mixture was diluted with 100 mL of DCM and 100 mL of H2O and the pH of the aqueous phase adjusted to 5.5. The aqueous phase was extracted with 500 mL of EtOAc and the combined organic fractions were concentrated to dryness giving the desired compound.

reactant | N-(3-Cyclopentyloxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-3-aminobenzoic acid | 23.9 mmol, 10.0 g | C1(CCCC1)OC=1C=C(C=CC1OC)N(C=1C=C(C(=O)O)C=CC1)CC=1C=NC=CC1 | C25H26N2O4
reactant | AlCl3 | 167 mmol, 22.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 100 mL | O | H2O
product | N-(3-Hydroxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-3-aminobenzoic Acid | OC=1C=C(C=CC1OC)N(C=1C=C(C(=O)O)C=CC1)CC=1C=NC=CC1 | C20H18N2O4
